US07977351B2
3-(6,7-Dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (1.44 g, 9.52 mmol.) in THF (10 mL) is cooled to 0° C. under an Argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (19 mL of a 1 M solution in THF, 19.0 mmol) dropwise. The resulting solution is stirred at 0° C. for 10 min and then warmed room temperature. A solution of 6,7-dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-one (1.47 g, 6.33 mmol) in THF (9 mL) is added dropwise to the reaction mixture and the reaction mixture is stirred for 4 h. The reaction mixture is poured into aqueous 10% HCl solution (200 mL). The resulting mixture is heated to 100° C. for 2 h and then stirred at room temperature for 36 h. The precipitate which formed is collected by filtration, washed with small volumes of ethyl acetate (10×3 mL) and dried under vacuum to give the title compound as a yellow solid (810 mg, 35%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 9.52 mmol, 1.44 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 6,7-dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-one | 6.33 mmol, 1.47 g | ClC1=C(C2=C(C=N1)C(OC2CC)=O)Cl | C9H7Cl2NO2
reactant | HCl | 200 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 3-(6,7-Dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 810 mg, 35% | ClC1=C(C2=C(C=N1)C(OC2CC)=C2C(NC1=CC=C(C=C21)F)=O)Cl | C17H11Cl2FN2O2
